US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-8-isopropyloxy-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-8-isopropyloxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) was added to a 40% aqueous solution (2.1 g) of methylamine, and the mixture was left to stand for 24 hours at about 55° C. The reaction mixture was concentrated under reduced pressure. Diisopropyl ether (0.5 ml) was added to the residue, and deposits were separated by filtration. The filtrate was concentrated under reduced pressure. Ethanol (about 0.1 ml) was added to the resultant residue, and the mixture was left to stand. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (60 mg) as a pale brown powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-8-isopropyloxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)OC(C)C)F)F)=O)C(=O)O)F)F | C19H14F4N2O4
reactant | methylamine | CN | CH5N
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-8-isopropyloxy-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 60 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)OC(C)C)NC)F)=O)C(=O)O)F)F | C20H18F3N3O4
